US07008957B2
11a) 2-Trimethylsilanylethyl 4-hydroxymethylpiperidine-1-carboxylate
10.5 g of 4-piperidinylmethanol were dissolved in 170 ml of THF. 25.8 g of 2-(trimethylsilyl)ethyl 4-nitrophenyl carbonate and 15.9 ml of N,N-diisopropylethylamine were successively added thereto. The mixture was stirred at room temperature for 1 h and then the solvent was removed in vacuo. The residue was taken up in 400 ml of ethyl acetate and washed once with 300 ml of 0.5 N HCl and twice with 250 ml of 1 N NaOH each time. The organic phase was dried with MgSO4, the solvent was removed in vacuo, and the residue was purified by chromatography on silica gel.

reactant | 4-piperidinylmethanol | 10.5 g | N1CCC(CC1)CO | C6H13NO
reactant | 2-(trimethylsilyl)ethyl 4-nitrophenyl carbonate | 25.8 g | C(OCC[Si](C)(C)C)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H17NO5Si
reactant | N,N-diisopropylethylamine | 15.9 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 170 ml | C1CCOC1 | C4H8O
product | 2-Trimethylsilanylethyl 4-hydroxymethylpiperidine-1-carboxylate | OCC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C12H25NO3Si
